2132-12-16 06:56:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 44**] Resident Progress Note
   Chief Complaint: Hypotension
   24 Hour Events:
   - Overnight he was given ginger ale and had blood sugar of 460, given 8
   units of insulin and basal evening dose and blood sugars dropped to
   310.
   - Also complained of having a sitter, continued to deny any active
   suicidal ideations.  His medications were removed from the room and
   sitter was discontinued.
   - This morning continues to complain of feeling
 and dizzy when he
   stands up.  Still requiring dopamine for BP support.
 MULTI LUMEN - START [**2132-12-15**] 06:23 PM
   Allergies:
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Tetracyclines
   Unknown;
   Erythromycin Base
   Unknown;
   Ciprofloxacin
   Hives; IV Cipro
   Last dose of Antibiotics:
   Meropenem - [**2132-12-16**] 01:45 AM
   Vancomycin - [**2132-12-16**] 02:35 AM
   Infusions:
   Dopamine - 3 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2132-12-16**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-12-16**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 56 (56 - 97) bpm
   BP: 108/55(68) {85/47(58) - 124/100(105)} mmHg
   RR: 15 (13 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
              CVP 5-7
   Total In:
                                                                    778 mL
                                                                    529 mL
   PO:
                                                                    650 mL
                     TF:
   IVF:
                                                                    128 mL
                                                                    529 mL
   Blood products:
   Total out:
                                                                  1,110 mL
                                                                  1,800 mL
   Urine:
                                                                  1,110 mL
                                                                  1,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -332 mL
                                                                 -1,271 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   GENERAL: Pleasant, well appearing man in NAD
   HEENTMucous membranes dry. OP clear. Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular but bradycardia. Normal S1, S2. No murmurs, no
   friction rub.
   LUNGS: Good air movement but has coarse crackles at b/l bases.
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis pulses.
   SKIN: No rashes/lesions, ecchymoses.
   Labs / Radiology
   305 K/uL
   10.7 g/dL
   261 mg/dL
   1.9 mg/dL
   22 mEq/L
   4.7 mEq/L
   25 mg/dL
   104 mEq/L
   137 mEq/L
   33.4 %
   12.8 K/uL
        [image002.jpg]
   On admission: Na 131, K 5.3, Creat 4.0, lactate 2.4 (to 1.1 within 2
   hours)
                            [**2132-12-15**]  06:40 PM
                            [**2132-12-16**]  04:25 AM
   WBC
   13.3
   12.8
   Hct
   34.2
   33.4
   Plt
   309
   305
   Cr
   2.9
   1.9
   TropT
   <0.01
   <0.01
   Glucose
   291
   261
   Other labs: CK / CKMB / Troponin-T:43/2/<0.01 (third set), ALT /
   AST:16/16, Alk Phos / T Bili:63/0.4, Differential-Neuts:91.2 %,
   Lymph:6.3 %, Mono:1.6 %, Eos:0.6 %, Albumin:3.9 g/dL, LDH:151 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   U/A negative (lots of glucose)
   Urine and serum tox negative
   [**12-15**] Blood cx and urine cx pending
   CXR [**12-15**]: Persistent vague opacity in the left lower lung likely
   represents
   Atelectasis or pneumonia.
   CXR [**12-15**]: 1. Left subclavian catheter terminates at upper SVC without
   pneumothorax.
   2. Vague increase in left lung base opacity may represent atelectasis
   vs pneumonia.
   Assessment and Plan
   69yo gentleman with recurrent admissions for hypotension +/- renal
   failure and aspiration presenting with hypotension and acute renal
   failure.
   # Hypotension: Feel that his hypotension was most likely toxic
   ingestion given both hypotension and bradycardia.  Some component may
   have also been hypovolemia.  Less likely sepsis given lack of fever or
   localizing infectious signs.  Also could consider adrenal insuficiency
   given low Na and high K on admission, although this doesn
t explain his
   entire presentation.
   - [**Last Name (un) 45**] stim test this am
   - directly observe all medication doses so that he cannot hoard
   medications
   - monitor Uop and mental status
   - f/u urine and blood cultures
   - empirically started antibiotics last evening for possible HAP.  Will
   wean dopamine today and likely stop antibiotics given no source of
   infection found
   - wean dopamine at this time, will give 1L IVF over 2 hours to help
   wean off pressors completely
   - CVP low at 5-7, will give fluids with CVP goal of [**8-13**]
   # H/o Depression:  Has significant psych history with major depression,
   stays in [**Hospital1 **] 4 in the past, and multiple instances of hoarding
   medications and possible toxic ingestions in the past.  Feel that she
   would benefit from psych input given that he is endangering himself by
   likely toxic ingestions and may need closer follow-up and placement.
   - Psych consult today
   - Continue Cymbalta
   # Bronchiectasis: Feel that he likely has chronic chest infection with
   increased WBC and CXR waxing and [**Doctor Last Name 42**] over multiple admissions.
   With significant evidence of bronchiectasis on chest CT prior to last
   discharge.
   - Start albuterol and Atrovent for bronchodilation
   - Bronchopulmonary hygiene and chest PT as tolerated by the patient
   - 10 days Clindamycin to be continued as an outpatient
   - Needs follow-up in pulmonary clinic and possibly discharge to
   pulmonary rehab.
   # Acute renal failure:  Had rapid rise in creatinine from 1.1 on
   discharge two days ago to 4.0 on admission yesterday.  Now rapidly
   resolving.  He initially had a small anion gap on admission, this has
   resolved.  He could have severe prerenal renal failure vs toxic
   ingestion.
   - monitor Chem 10 [**Hospital1 **]
   - avoid renally toxic medications, renally dose his gabapentin
   - support blood pressure as needed
   # Chest pain:  Patient does not give consistent history about his chest
   pain.  Serum biomarkers negative x 3, ECG unchanged from baseline.
   - continue ASA
   # Seizures: Continue keppra
   # Type 2 DM and peripheral neuropathy: Has had uncontrolled sugars
   since admission after drinking ginger ale, were lower at presentation.
   - continue insulin, ASA, and gabapentin
   # H/o HTN:  Currently holding home BP meds (amlodipine, metoprolol,
   imdur and lisinopril)
   # Hyperlipidemia:  Continue statin
   # Chronic pain and spinal stenosis:  Continue oxycodone
   # Neurogenic bladder:  Continue ditropan
   # GERD:  Continue PPI
   ICU Care
   Nutrition: Strict diabetic diet
   Glycemic Control:  Insulin sliding scale
   Lines: Multi Lumen - [**2132-12-15**] 06:23 PM (left subclavian CVL)
   16 Gauge - [**2132-12-15**] 06:23 PM
   18 Gauge - [**2132-12-15**] 06:24 PM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer: Pantoprazole
   VAP:
   Comments: Bowel regimen senna/colace prn
   Communication:  Comments: sister [**Name (NI) 6196**] [**Telephone/Fax (1) 11143**]
   [**Name2 (NI) 66**] status: Full code
   Disposition: ICU for now, to medicine floor once off pressors and
   hemodynamically stable

2132-12-17 07:25:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 44**] Resident Progress Note
   Chief Complaint: Hypotension
   24 Hour Events:
   -dopamine weaned off yesterday morning
   -abx stopped
   -started tx for bronchiectasis with bronchodilators, chest PT, needs
   f/u pulm clinic.  MRSA sputum from [**12-9**] resistant to clinda, so spoke
   to ID and started vanc.  plan to try to convince patient that he needs
   to go to rehab to complete course of vanc
   - Psych saw patient: Consider resolving delirium, poor medication
   management, recommend speaking to PCP, [**Name10 (NameIs) **] acute risk of harm to
   patient, no need for 1:1 observation, consider stopping gabapentin but
   talk to PCP first, doubt need for psych admission, PT/OT consults,
   social work c/s, CM should contact former [**Name (NI) **], team meeting with [**Name (NI) 8804**]
   staff (psych can do it Weds or Friday and wants to be emailed possible
   times), outpatient neuropsych testing
   -OT/PT and SW consults requested
   -[**Last Name (un) 45**] stim is fine, although am cortisol low
   -pm lytes fine
   -This morning complains of continued left-sided chest pain, otherwise
   feeling much better.
   Allergies:
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Tetracyclines
   Unknown;
   Erythromycin Base
   Unknown;
   Ciprofloxacin
   Hives; IV Cipro
   Last dose of Antibiotics:
   Meropenem - [**2132-12-16**] 01:45 AM
   Levofloxacin - [**2132-12-16**] 10:49 AM
   Vancomycin - [**2132-12-16**] 08:06 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2132-12-16**] 04:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-12-17**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.2
   HR: 72 (53 - 95) bpm
   BP: 141/80(95) {98/36(59) - 147/95(107)} mmHg
   RR: 18 (13 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 3 (2 - 11)mmHg
   (mostly between 5 and 9, was 3 this am)
   Total In:
                                                                  2,213 mL
                                                                    100 mL
   PO:
                                                                    350 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,863 mL
   Blood products:
   Total out:
                                                                  3,980 mL
                                                                  1,450 mL
   Urine:
                                                                  3,980 mL
                                                                  1,450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,767 mL
                                                                 -1,350 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   GENERAL: Pleasant, well appearing man in NAD
   HEENT: MMM today. OP clear. Neck Supple, No LAD, No thyromegaly.
   CARDIAC: Regular rate and rhythm. Normal S1, S2. No murmurs, no
   friction rub.
   LUNGS: Good air movement but has some faint bronchial breath sounds at
   mid-lung bilaterally.
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis pulses.
   Labs / Radiology
   250 K/uL
   9.6 g/dL
   132 mg/dL
   1.1 mg/dL
   25 mEq/L
   4.3 mEq/L
   20 mg/dL
   103 mEq/L
   137 mEq/L
   29.0 %
   10.9 K/uL
        [image002.jpg]
   Blood sugars have been 100-200
                            [**2132-12-15**]  06:40 PM
                            [**2132-12-16**]  04:25 AM
                            [**2132-12-16**]  02:38 PM
                            [**2132-12-17**]  04:06 AM
   WBC
   13.3
   12.8
   10.9
   Hct
   34.2
   33.4
   29.0
   Plt
   [**Telephone/Fax (3) 11150**]
   Cr
   2.9
   1.9
   1.3
   1.1
   TropT
   <0.01
   <0.01
   Glucose
   291
   261
   265
   132
   Other labs: CK / CKMB / Troponin-T:43/2/<0.01, ALT / AST:16/16, Alk
   Phos / T Bili:63/0.4, Differential-Neuts:91.2 %, Lymph:6.3 %, Mono:1.6
   %, Eos:0.6 %, Albumin:3.9 g/dL, LDH:151 IU/L, Ca++:8.6 mg/dL, Mg++:2.2
   mg/dL, PO4:1.6 mg/dL
   [**Last Name (un) **] stim 3.4
23.1 (3.4 a little low)
   Blood cx [**12-15**] pending
   Urine cx [**12-15**] final no growth
   (Note: Sputum culture from [**12-9**] at last hospitalization grew MRSA)
   No CXR today in OMR
   Assessment and Plan
   69yo gentleman with recurrent admissions for hypotension +/- renal
   failure and aspiration presenting with hypotension and acute renal
   failure.
   # Hypotension: Feel that his hypotension was most likely toxic
   ingestion and poor medication management given both hypotension and
   bradycardia.  Some component may have also been hypovolemia.  Less
   likely sepsis given lack of fever or localizing infectious signs.  Also
   could consider adrenal insuficiency given low Na and high K on
   admission, although [**Last Name (un) 45**] stim appropriate (but does have low morning
   cortisol levels).  Now off pressors for more than 24 hours and BP
   stable and WNL.
   - directly observe all medication doses so that he cannot hoard
   medications
   - monitor Uop and mental status
   - f/u blood cultures
   - IVF as necessary to support BP, although has not been requiring these
   # H/o Depression:  Has significant psych history with major depression,
   stays in [**Hospital1 **] 4 in the past, and multiple instances of hoarding
   medications and possible toxic ingestions in the past.
   - Appreciate psych recs
   - Will touch base with PCP regarding dispo issues and how he can best
   manage his medications
   - Consider stopping gabapentin, will ask PCP about his thoughts
   - PT/OT consults
   - Social work consult and case management assistance, will ask CM to
   contact former [**Name (NI) **]
   - Consider outpatient neuropsych testing
   - Continue Cymbalta
   # Bronchiectasis: Feel that he likely has chronic chest infection with
   increased WBC and CXR waxing and [**Doctor Last Name 42**] over multiple admissions.
   With significant evidence of bronchiectasis on chest CT prior to last
   discharge.
   - Continue albuterol and Atrovent for bronchodilation
   - Bronchopulmonary hygiene and chest PT as tolerated by the patient
   - 10 days Vancomycin to be continued while in the hospital and if
   patient goes to rehab.  Not sure it is worth keeping him in the
   hospital to finish this course, as it is only for suppressive therapy
   - Needs follow-up in pulmonary clinic and possibly discharge to
   pulmonary rehab vs other rehab
   # Acute renal failure:  Had rapid rise in creatinine from 1.1 on
   discharge two days ago to 4.0 on admission, now back to baseline.  He
   could have had severe prerenal renal failure vs toxic ingestion.
   - monitor Chem 10 daily
   - avoid renally toxic medications, renally dose his gabapentin
   - support blood pressure as needed
   #. Anemia: Hct downtrending, likely dilutional but was 37 on admission,
   now downtrending to 29.  All other blood counts also downtrending.
   - Continue to monitor
   - Guaiac all stools
   # Chest pain:  Patient does not give consistent history about his chest
   pain.  Serum biomarkers negative x 3, ECG unchanged from baseline.
   - continue ASA
   # Seizures: Continue keppra
   # Type 2 DM and peripheral neuropathy: Has had uncontrolled sugars
   since admission after drinking ginger ale, were lower at presentation.
   - continue insulin, ASA, and gabapentin
   # H/o HTN:  Currently holding home BP meds (amlodipine, metoprolol,
   imdur and lisinopril)
   # Hyperlipidemia:  Continue statin
   # Chronic pain and spinal stenosis:  Continue oxycodone
   # Neurogenic bladder:  Continue ditropan
   # GERD:  Continue PPI
   ICU Care
   Nutrition: Strict diabetic diet
   Glycemic Control:  Insulin sliding scale
   Lines: Multi Lumen - [**2132-12-15**] 06:23 PM (left subclavian CVL)
 will
   pull today
   16 Gauge - [**2132-12-15**] 06:23 PM
   18 Gauge - [**2132-12-15**] 06:24 PM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer: Pantoprazole
   VAP:
   Comments: Bowel regimen senna/colace prn
   Communication:  Comments: sister [**Name (NI) 6196**] [**Telephone/Fax (1) 11143**]
   [**Name2 (NI) 66**] status: Full code
   Disposition: Call out today to floor

2132-12-17 10:52:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
                               History obtained from [**Hospital 85**] Medical records
   Allergies:
   Sulfonamides
   Unknown;
   Penicillins
   Unknown;
   Tetracyclines
   Unknown;
   Erythromycin Base
   Unknown;
   Ciprofloxacin
   Hives; IV Cipro
   Last dose of Antibiotics:
   Meropenem - [**2132-12-16**] 01:45 AM
   Levofloxacin - [**2132-12-16**] 10:49 AM
   Vancomycin - [**2132-12-16**] 08:06 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2132-12-16**] 04:38 PM
   Heparin Sodium (Prophylaxis) - [**2132-12-17**] 08:13 AM
   Pantoprazole (Protonix) - [**2132-12-17**] 08:13 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: Chest pain, No(t) Palpitations, No(t) Edema, No(t)
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea, Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence, possible deliberate med overdose
   Allergy / Immunology: No(t) Immunocompromised, Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2132-12-17**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.2
C (97.2
   HR: 80 (65 - 95) bpm
   BP: 132/69(85) {99/36(59) - 147/95(107)} mmHg
   RR: 22 (15 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 5 (2 - 11)mmHg
   Total In:
                                                                  2,213 mL
                                                                    340 mL
   PO:
                                                                    350 mL
                                                                    340 mL
   TF:
   IVF:
                                                                  1,863 mL
   Blood products:
   Total out:
                                                                  3,980 mL
                                                                  2,510 mL
   Urine:
                                                                  3,980 mL
                                                                  2,510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,767 mL
                                                                 -2,170 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: No(t) Clear : , Crackles : bilat lower lobe, No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   250 K/uL
   132 mg/dL
   1.1 mg/dL
   25 mEq/L
   4.3 mEq/L
   20 mg/dL
   103 mEq/L
   137 mEq/L
   29.0 %
   10.9 K/uL
        [image002.jpg]
                            [**2132-12-15**]  06:40 PM
                            [**2132-12-16**]  04:25 AM
                            [**2132-12-16**]  02:38 PM
                            [**2132-12-17**]  04:06 AM
   WBC
   13.3
   12.8
   10.9
   Hct
   34.2
   33.4
   29.0
   Plt
   [**Telephone/Fax (3) 11150**]
   Cr
   2.9
   1.9
   1.3
   1.1
   TropT
   <0.01
   <0.01
   Glucose
   291
   261
   265
   132
   Other labs: CK / CKMB / Troponin-T:43/2/<0.01, ALT / AST:16/16, Alk
   Phos / T Bili:63/0.4, Differential-Neuts:91.2 %, Lymph:6.3 %, Mono:1.6
   %, Eos:0.6 %, Albumin:3.9 g/dL, LDH:151 IU/L, Ca++:8.6 mg/dL, Mg++:2.2
   mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ADVERSE DRUG EVENT (ADR, ADE, MEDICATION TOXICITY)
 BRADYCARDIA
 HYPOPHOSPHATEMIA (LOW PHOSPHATE)
   Hypotension has resolved, presumably due to medication overdose.
   Psychiatry does not think this was likely a suicide attempt.  Agree
   that he was not attempting to harm himself but this does seem to have
   been deliberate.  Repleting Phos.  Will discuss long term management
   with PCP
   ICU [**Name9 (PRE) **]
   Nutrition:
   Comments: full
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2132-12-15**] 06:23 PM
   16 Gauge - [**2132-12-15**] 06:23 PM
   18 Gauge - [**2132-12-15**] 06:24 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes